US07105671B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclopentyl)-propionic acid (594.8 mg, 1.725 mmol) in methylene chloride (8.6 mL) and N,N-dimethylformamide (2 drops) cooled to 0° C. was treated with oxalyl chloride (226 μL, 2.587 mmol). The reaction mixture was stirred at 0° C. for 15 min and then stirred at 25° C. for 2 h. The reaction mixture was concentrated in vacuo to afford a red oil. This red oil was dissolved in tetrahydrofuran (4.03 mL), cooled to 0° C., and then slowly treated with a solution of 2-aminopyrazine (246.1 mg, 2.587 mmol) and pyridine (209 μL, 2.587 mmol) in tetrahydrofuran (4.3 mL). The resulting reaction mixture was stirred at 0° C. for 15 min and then stirred at 25° C. for 2 h. The reaction mixture was quenched with a 1N aqueous citric acid solution (20 mL) and then extracted with ethyl acetate (2×100 mL). The combined organic layers were washed with a saturated aqueous sodium bicarbonate solution (2×100 mL) and a saturated aqueous sodium chloride solution (100 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 80% ethyl acetate/hexanes) afforded 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide (207.3 mg, 28%) as a pale yellow foam: mp 93–96° C. (foam to gel); (ES)+-HRMS m/e calcd for C19H20ClN3O4S (M+H)+ 422.0936 found 422.0938.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclopentyl)-propionic acid | 1.725 mmol, 594.8 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1CC(CC1)=O | C15H17ClO5S
reactant | oxalyl chloride | 2.587 mmol, 226 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminopyrazine | 2.587 mmol, 246.1 mg | NC1=NC=CN=C1 | C4H5N3
reactant | pyridine | 2.587 mmol, 209 μL | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 8.6 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4.03 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.3 mL | O1CCCC1 | C4H8O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(3-oxo-cyclopentyl)-N-pyrazin-2-yl-propionamide | 207.3 mg, 28% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC1=NC=CN=C1)CC1CC(CC1)=O | C19H20ClN3O4S
